US08008307B2
Step a: 6-chloro-8-(1-naphthyl)-9H-purine
A mixture of 6-chloro-4,5-diaminopyrimidine (519 mg, 0.00359 mol) and 1-naphthalenecarboxylic acid (618 mg, 0.00359 mol) in phosphoryl chloride (2.0 mL, 0.021 mol) was heated at 110° C. under an atmosphere of nitrogen for 5.5 hours. The reaction was cooled and the residue was washed several times with ether. The residue was dissolved in CH2Cl2 and aqueous NaHCO3. The layers were separated and the aqueous was extracted with EtOAc (1×) and CH2Cl2 (1×). The combined organics were washed with saturated aqueous NaHCO3, brine, dried (Na2SO4), filtered, and collected in vacuo to obtain 810 mg (80%) of an orange solid. LC/MS: Rt=1.68 min, ES+ 261 (FA standard).

reactant | 6-chloro-4,5-diaminopyrimidine | 0.00359 mol, 519 mg | ClC1=C(C(=NC=N1)N)N | C4H5ClN4
reactant | 1-naphthalenecarboxylic acid | 0.00359 mol, 618 mg | C1(=CC=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | phosphoryl chloride | 0.021 mol, 2.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-chloro-8-(1-naphthyl)-9H-purine | 810 mg, 80% | ClC1=C2N=C(NC2=NC=N1)C1=CC=CC2=CC=CC=C12 | C15H9ClN4
